US07470723B2
To a stirred solution of (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanol (2.08 g crude, 6.7 mmol) in CH2Cl2 (15 mL) at room temperature was added activated MnO2 powder (3.6 g, 41.4 mmol) and kept adding 23 equivalents of MnO2 every 35 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanone as an oil (2.0 g, 109% crude yield): 1H NMR (CDCl3) δ 3.86 (s, 3H, OCH3), 4.26-4.36 (m, 4H, CH2CH2), 6.84-7.42 (m, 7H, Ar). The product was used in the next step without further purification.

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanol | 6.7 mmol, 2.08 g | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC=C2)OC | C16H16O4
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 41.4 mmol, 3.6 g | O=[Mn]=O
catalyst | MnO2 | 23 equivalents | O=[Mn]=O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanone | O1CCOC2=C1C=CC(=C2)C(=O)C2=CC(=CC=C2)OC | C16H14O4
